US03973030
The starting material is prepared as follows: To the mixture of 19.2 g of 3,4-dimethoxycinnamaldehyde, 24 g of magnesium sulfate and 100 ml of benzene, 6.2 g of methylamine in 120 ml of benzene are added and the suspension is stirred at room temperature for 8 hours. It is filtered and the filtrate added dropwise to the solution of 3.8 g of sodium borohydride in 200 ml to anhydrous ethanol while stirring and cooling with ice. Stirring is continued over night at room temperature, the mixture cooled again, 25 ml of concentrated hydrochloric acid are added and the solution evaporated under reduced pressure. The residue is taken up in 150 ml of water the solution washed with diethyl ether, made basic with sodium hydroxide and the mixture extracted with diethyl ether. The extract is dried and evaporated, to yield the N-methyl-3,4-dimethoxycinnamylamine as an oil; the cyclamate thereof melts at 145°-147°.

reactant | 3,4-dimethoxycinnamaldehyde | 19.2 g | COC=1C=C(C=CC=O)C=CC1OC | C11H12O3
reactant | magnesium sulfate | 24 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | methylamine | 6.2 g | CN | CH5N
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-methyl-3,4-dimethoxycinnamylamine | CNCC=CC1=CC(=C(C=C1)OC)OC | C12H17NO2
